US09428528B2
Step 3 Preparation of 2-cyano-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(6-(methylsulfonamidomethyl)pyridin-3-yl)phenyl)propan-2-yl)acetamide
A mixture of 3-((4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(trimethylstannyl)-phenyl)oxazolidin-3-yl)-3-oxopropanenitrile (150 mg, 0.342 mmol), N-((5-bromopyridin-2-yl)methyl) methanesulfonamide (90 mg, 0.342 mmol), tris(2-furyl)phosphine (16 mg, 0.068 mmol) and tris(dibenzylideneacetone) dipalladium(0) (32 mg, 0.034 mmol) in dimethylformamide (3 mL) is heated at 70° C. for 4 h under nitrogen. The mixture is then cooled, diluted with water (10 mL) and extracted with ethyl acetate (3×15 mL). Extracts are dried over Na2SO4 and concentrated to get crude product m/z (CI) M+H 461. Obtained product is dissolved in CH2Cl2 (3 mL) and treated with trifluoroacetic acid (0.5 mL) for 3 hours at room temperature. Reaction is diluted with toluene (10 mL) and concentrated to syrup. Obtained crude product dissolved in dimethylformamide (2 mL) and purified using HPLC to give the title product (4 mg): m/z (CI) M+H 421.

reactant | 3-((4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(trimethylstannyl)-phenyl)oxazolidin-3-yl)-3-oxopropanenitrile | 0.342 mmol, 150 mg | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)[Sn](C)(C)C)(C)C)C(CC#N)=O
reactant | N-((5-bromopyridin-2-yl)methyl) methanesulfonamide | 0.342 mmol, 90 mg | BrC=1C=CC(=NC1)CNS(=O)(=O)C | C7H9BrN2O2S
reactant | tris(2-furyl)phosphine | 0.068 mmol, 16 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.034 mmol, 32 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 2-cyano-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(6-(methylsulfonamidomethyl)pyridin-3-yl)phenyl)propan-2-yl)acetamide | 4 mg | C(#N)CC(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)C=1C=NC(=CC1)CNS(=O)(=O)C)O)CF | C19H21FN4O4S
